US04137313
5-Ethyl-2,5-dihydro-4-hydroxy-2-methyl-N-(2-pyridyl)-1,2 thiazino[5,6-b]indole-3-carboxamide 1,1-dioxide was prepared analogous to Example 15 from methyl 5-ethyl-2,5-dihydro-4-hydroxy-2-methyl-1,2-thiazino[5,6-b]indole-3-carboxylate-1,1-dioxide and 2-amino-pyridine with a yield of 72% of theory. M.p.: 232° C. (decomposition, from xylene).

reactant | methyl 5-ethyl-2,5-dihydro-4-hydroxy-2-methyl-1,2-thiazino[5,6-b]indole-3-carboxylate-1,1-dioxide | C(C)N1C2=C(C=3C=CC=CC13)S(N(C(=C2O)C(=O)OC)C)(=O)=O | C15H16N2O5S
reactant | 2-amino-pyridine | NC1=NC=CC=C1 | C5H6N2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5-Ethyl-2,5-dihydro-4-hydroxy-2-methyl-N-(2-pyridyl)-1,2 thiazino[5,6-b]indole-3-carboxamide 1,1-dioxide | yield of 72% | C(C)N1C2=C(C=3C=CC=CC13)S(N(C(=C2O)C(=O)NC2=NC=CC=C2)C)(=O)=O | C19H18N4O4S
